US07915281B2
3-Chloroperoxybenzoic acid (mCPBA) (2.4 g of 75% pure material) was added to a suspension of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridine (2.76 g, 7.99 mmol) in dichloromethane (100 mL). The reaction was stirred at room temperature for 30 minutes; an analysis by TLC then indicated the presence of starting material. Additional mCPBA (0.065 g of 75%) was added, and the reaction was stirred for another 30 minutes and found to be complete by TLC analysis. Concentrated ammonium hydroxide (50 mL) and p-toluenesulfonyl chloride (1.68 g, 8.79 mmol) were sequentially added. The mixture was stirred for 30 minutes. The volatiles were removed under reduced pressure, and 1 N aqueous sodium hydroxide and water were added to the resulting mixture, which was filtered to isolate a solid. The solid was washed with diethyl ether. Additional solid precipitated from the aqueous filtrate, and was isolated by filtration and combined with the first solid to provide 2.48 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine, which was dissolved in a mixture of methanol (80 mL) and dichloromethane (80 mL). The resulting mixture was heated to 50° C., and concentrated ammonium hydroxide (20 mL) and benzenesulfonyl chloride (1.2 mL, 7.6 mmol) were added. The reaction was heated under a nitrogen atmosphere for one hour, and additional benzenesulfonyl chloride (0.5 mL) was added. The solvents were removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with 2% to 10% CMA in chloroform) followed by recrystallization from acetonitrile to provide 0.612 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine as a white solid, mp 265.0-266.0° C.

reactant | 3-Chloroperoxybenzoic acid | 2.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridine | 7.99 mmol, 2.76 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C=NC=2C=NC=3C=CC=NC3C21 | C19H12FN5O
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 8.79 mmol, 1.68 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | mCPBA | 0.065 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine | 2.48 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C=NC=2C=[N+](C=3C=CC=NC3C21)[O-] | C19H12FN5O2
